US03997564
To a solution of 197 gms. of 1-amino-3,4-methylenedioxybenzene in 1500 mls. of methanol is added 110.3 mls. of isopropyl iodide and 154.8 mls. of triethylamine. The resulting solution is refluxed for 32 hours at the end of which time the solvent is stripped at reduced pressure. The oil thus obtained is extracted repeatedly with diethyl ether. The extracts are combined, filtered through Celite, and the ether stripped off to obtain 1-isopropylamine-3,4-methylenedioxybenzene as an oil.

reactant | 1-amino-3,4-methylenedioxybenzene | NC1=CC2=C(C=C1)OCO2 | C7H7NO2
reactant | methanol | CO | CH4O
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-isopropylamine 3,4-methylenedioxybenzene | C(C)(C)N.C1OC=2C=CC=CC2O1 | InChI=1S/C7H6O2.C3H9N/c1-2-4-7-6(3-1)8-5-9-7;1-3(2)4/h1-4H,5H2;3H,4H2,1-2H3
